US05847159
Preparation of 1-[2-(3,4-dihydro-6,7-dimethyl-2-naphthalenyl)ethyl]-pyrrolidine
1,2,3,4-Tetrahydro-6,7-dimethyl-2-[2-(1-pyrrolidinyl)ethyl]-1-naphthalenol (24.0 g) was dissolved in a 30% solution of hydrogen chloride in ethanol (240 ml), and the mixture was refluxed for one hour. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in water. The mixture was basified with potassium carbonate, and extracted with ethyl acetate. The extract was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol=10:1), and the fractions containing the desired compound were combined, and concentrated under reduced pressure to give the desired compound (14.5 g) as an oily product.

reactant | 1,2,3,4-Tetrahydro-6,7-dimethyl-2-[2-(1-pyrrolidinyl)ethyl]-1-naphthalenol | 24.0 g | CC=1C=C2CCC(C(C2=CC1C)O)CCN1CCCC1 | C18H27NO
solvent | hydrogen chloride | Cl | ClH
solvent | ethanol | 240 ml | C(C)O | C2H6O
product | 1-[2-(3,4-dihydro-6,7-dimethyl-2-naphthalenyl)ethyl]-pyrrolidine | 14.5 g | CC=1C=C2CCC(=CC2=CC1C)CCN1CCCC1 | C18H25N
